US05830902
3-Chloromethyl-10-methylphenothiazine-5,5-dioxide
Thionyl chloride (5 ml) was added to a mixture of 3-hydroxymethyl-10-methylphenothiazine-5,5-dioxide (1.23 g, 4.47 mmol) and chloroform (15 ml), and the mixture was stirred for 1 hour. The reaction mixture was concentrated under a reduced pressure, water was added to the residue, and the reaction product was extracted with chloroform. The extract was washed with water and saturated sodium chloride aqueous solution in that order, dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure to give the title compound (1.32 g, 100%) as colorless crystals.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl-10-methylphenothiazine-5,5-dioxide | 4.47 mmol, 1.23 g | OCC=1C=CC=2N(C3=CC=CC=C3S(C2C1)(=O)=O)C | C14H13NO3S
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloromethyl-10-methylphenothiazine-5,5-dioxide | 1.32 g, 100% | ClCC=1C=CC=2N(C3=CC=CC=C3S(C2C1)(=O)=O)C | C14H12ClNO2S
